US08022206B2
7-[(S)-1-(6-Chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethoxy]-3-(1-piperidin-4-yl-1H-pyrazol-4-yl)furo[3,2-c]pyridin-6-ylamine
To a mixture of 4-[4-(7-hydroxy-6-nitrofuro[3,2-c]pyridin-3-yl)pyrazol-1-yl]piperidine-1-carboxylic acid tert-butyl ester (50.0 mg, 0.116 mmol), (R)-1-(6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol (46.2 mg, 0.233 mmol), triphenylphosphine (122 mg, 0.466 mmol) and THF (5 mL) under nitrogen at rt was added diisopropyl azodicarboxylate (0.09 mL, 0.466 mmol) dropwise. The solution was heated to 40° C. overnight. The solvent was removed in vacuo, and EtOH (8 mL), iron powder (60 mg, 1 mmol) and conc. HCl (8 drops) were added. The mixture was heated to 75° C. for 2 h. The material was loaded into a SCX cartridge, washed with MeOH and ejected with 2M NH3 in MeOH. The filtrate was concentrated in vacuo to afford the title compound as a dark orange solid, and was used in the next step without further purification.

reactant | 4-[4-(7-hydroxy-6-nitrofuro[3,2-c]pyridin-3-yl)pyrazol-1-yl]piperidine-1-carboxylic acid tert-butyl ester | 0.116 mmol, 50.0 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C1=COC2=C1C=NC(=C2O)[N+](=O)[O-] | C20H23N5O6
reactant | (R)-1-(6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol | 0.233 mmol, 46.2 mg | ClC=1C=CC=2N(N1)C(=NN2)[C@@H](C)O | C7H7ClN4O
reactant | triphenylphosphine | 0.466 mmol, 122 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.466 mmol, 0.09 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
catalyst | HCl | 8 drops | Cl | ClH
catalyst | iron | 1 mmol, 60 mg | [Fe] | Fe
solvent | EtOH | 8 mL | CCO | C2H6O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-[(S)-1-(6-Chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethoxy]-3-(1-piperidin-4-yl-1H-pyrazol-4-yl)furo[3,2-c]pyridin-6-ylamine | ClC=1C=CC=2N(N1)C(=NN2)[C@H](C)OC=2C1=C(C=NC2N)C(=CO1)C=1C=NN(C1)C1CCNCC1 | C22H22ClN9O2
